US05719186
To an ice-cold stirred solution of (E)-2-(6-Fluoro-1-indanylidene)acetyl Chloride in dichloromethane (50 ml) was added cyclopropylamine (1.65 g, 28.86 mmol) and the reaction was warmed to room temperature overnight. The reaction was evaporated in vacuo to a solid residue. This residue was dissolved in ethyl acetate (300 ml), washed with water (75 ml), and the organic layer was concentrated by spin evaporation in vacuo. The residue was chromatographed on silica gel using ethyl acetate-hexanes (0:1 to 1:1 gradient) as eluent. Fractions containing only the product were combined and concentrated by spin evaporation in vacuo. Recrystallization of the residue from dichloromethane-hexanes gave 1.6 g (76%) of (E)-N-cyclopropyl-2-(6-fluoro-1-indanylidene)acetamide as a white powdery solid, m.p. 124°-127° C.; NMR (DMSO-d6): d 8.03 (d, 1H, J=3.9 Hz, NH), 7.45-7.38 (m, 1H, Ar), 7.28-7.14 (m,2H, Ar), 6.30 (s, 1H, =CH, 3.23-3.21 (m, 2H, CH2), 2.99-2.96 (m, 2H, CH2), 2.72 (m, 1H, NCH), 0.71-0.39 (2ms, 4H, CH2 -CH2); steady state nOe: irradiation at d6.30, observed 15% nOe at d 8.03 and 20% nOe at d 7.23.

reactant | (E)-2-(6-Fluoro-1-indanylidene)acetyl Chloride | FC1=CC=C2CC/C(/C2=C1)=C\C(=O)Cl | C11H8ClFO
reactant | cyclopropylamine | 28.86 mmol, 1.65 g | C1(CC1)N | C3H7N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (E)-N-cyclopropyl-2-(6-fluoro-1-indanylidene)acetamide | 1.6 g, 76% | C1(CC1)NC(/C=C/1\CCC2=CC=C(C=C12)F)=O | C14H14FNO
